US09216173B2
Bromine (2.0 mL, 39 mmol) was added slowly to a solution of 1-(3-chloropropyl)cyclopropanol (5.0 g, 34 mmol) in isopropanol (80% solution in water, 30 mL) at 0° C. The reaction mixture was stirred at ambient temperature for 1 hour and then was quenched with water (15 mL) and extracted with ethyl acetate (3×30 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford 1-bromo-6-chlorohexan-3-one, which was used without further purification.

reactant | Bromine | 39 mmol, 2.0 mL | BrBr | Br2
reactant | 1-(3-chloropropyl)cyclopropanol | 34 mmol, 5.0 g | ClCCCC1(CC1)O | C6H11ClO
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 1-bromo-6-chlorohexan-3-one | BrCCC(CCCCl)=O | C6H10BrClO
